US04973731
A mixture of 3.21 g (0.01 mole) of 4-(3,5-di-t-butylphenoxymethyl)-1-benzenecarbonitrile, 1.95 g (0.03 mole) of sodium azide, 1.60 g (0.03 mole) of ammonium chloride, 0.42 g (0.01 mole) of lithium chloride and 25 ml of dimethylformamide was heated at 120° C. in a stoppered flask for about sixty-four hours. The mixture was poured into 500 ml of water. The resulting precipitate was collected, rinsed with water and recrystallized from ethanol to give 2.7 g of white crystalline 5-{4-[(3,5-di-t-butylphenoxy)methyl]phenyl}tetrazole, m.p. 253°-255° C. Analysis: Calculated for: C22H28N4O: %C, 72.5; %H, 7.7; %N, 15.4; Found: %C, 72.5; %H, 7.9; %N, 15.0.

reactant | 4-(3,5-di-t-butylphenoxymethyl)-1-benzenecarbonitrile | 0.01 mole, 3.21 g | C(C)(C)(C)C=1C=C(OCC2=CC=C(C=C2)C#N)C=C(C1)C(C)(C)C | C22H27NO
reactant | sodium azide | 0.03 mole, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.03 mole, 1.60 g | [Cl-].[NH4+]
reactant | lithium chloride | 0.01 mole, 0.42 g | [Cl-].[Li+]
solvent | water | 500 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-{4-[(3,5-di-t-butylphenoxy)methyl]phenyl}tetrazole | 2.7 g | C(C)(C)(C)C=1C=C(OCC2=CC=C(C=C2)C2=NN=NN2)C=C(C1)C(C)(C)C | C22H28N4O
